US09388153B2
Diisopropyl azodicarboxylate (57 mg, 0.28 mmol) was added to a solution of 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-ol (55 mg, 0.24 mmol), triphenylphosphine (97 mg, 0.37 mmol), methyl 2-(3-hydroxyphenoxy)acetate (37 mg, 0.20 mmol) and dichloromethane (2 mL) in a 50 mL round bottom flask at room temperature. After stirring overnight for 16 hours, the resulting mixture was quenched with saturated aqueous NaHCO3 (50 mL) and extracted with ethyl acetate (100 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (4 g column, hexanes→100% ethyl acetate/hexanes, gradient) to afford 38 mg (40%) of methyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)oxy)phenoxy)acetate.

reactant | Diisopropyl azodicarboxylate | 0.28 mmol, 57 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-ol | 0.24 mmol, 55 mg | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)O | C15H13FO
reactant | triphenylphosphine | 0.37 mmol, 97 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 2-(3-hydroxyphenoxy)acetate | 0.20 mmol, 37 mg | OC=1C=C(OCC(=O)OC)C=CC1 | C9H10O4
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | methyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)oxy)phenoxy)acetate | 38 mg, 40% | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)OC=1C=C(OCC(=O)OC)C=CC1 | C24H21FO4
